US08975443B2
2,2,8,8-Tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphocane
A round bottom flask was charged with 2,2,8,8-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphocan-4-one (1.25 g, 2.61 mmol, 1.0 equiv) and purged with nitrogen for 15 minutes. Nitrogen-sparged diethylene glycol (13.7 mL, 144 mmol, 55 equiv) was added, and the flask was equipped with a Claisen adapter and a Dean-Stark trap. The mixture was charged with hydrazine hydrate (1.16 mL, 13.1 mmol, 5 equiv, 55 wt % hydrazine) and potassium hydroxide (733 mg, 13.1 mmol, 5 equiv). The mixture was immersed in an oil bath at 160° C. under a nitrogen atmosphere. The temperature of the bath was gradually increased to 210° C. over 30 minutes and kept at that temperature for 7 hours. The reaction mixture was cooled to room temperature under a positive pressure of nitrogen overnight. The Claisen adapter was washed with ethyl acetate (30 mL). The phases were partitioned, and the organic layer was collected. The aqueous layer was washed with ethyl acetate (3×20 mL), and the combined organic fractions were washed once with water (50 mL) and aqueous saturated sodium chloride (50 mL), dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The purified product was triturated from hot methanol and collected by filtration to afford the title compound as a white solid (499 mg, 92 area % by HPLC, 41% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.96-7.87 (m, 1H), 7.33-7.26 (m, 2H), 7.23-7.17 (m, 1H), 6.97 (s, 2H), 3.00-2.85 (m, 1H), 2.61-2.44 (m, 2H), 1.91-1.61 (m, 5H), 1.61-1.41 (m, 5H), 1.39 (d, J=2.5 Hz, 6H), 1.31 (d, J=6.9 Hz, 6H), 1.23 (d, J=6.8 Hz, 6H), 0.98 (d, J=6.7 Hz, 6H), 0.74 (d, J=15.0 Hz, 6H). 13C NMR (100 MHz, CDCl3) δ ppm 148.2 (d, J=35 Hz), 147.1, 145.8, 137.3, 136.8 (d, J=8 Hz), 136.6 (d, J=21 Hz), 132.0 (d, J=7 Hz), 126.9, 124.6, 119.8, 43.8 (d, J=18 Hz), 36.3 (d, J=30 Hz), 34.3, 31.1, 31.0 (d, J=18 Hz), 28.3 (d, J=4 Hz), 26.8 (d, J=11 Hz), 26.7, 24.4, 23.1 (d, J=2 Hz), 22.4 (d, J=6 Hz). 31P NMR (CDCl3, 202 MHz) δ ppm 10.5 (s). HRMS (TOF-ESI+) calcd for [M, C32H49P]+ 464.3572, found 464.3584.

reactant | 2,2,8,8-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphocan-4-one | 2.61 mmol, 1.25 g, 1.0 equiv | CC1(P(C(CCCC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C32H47OP
reactant | diethylene glycol | 144 mmol, 13.7 mL, 55 equiv | C(COCCO)O | C4H10O3
reactant | hydrazine hydrate | 13.1 mmol, 1.16 mL, 5 equiv | O.NN
reactant | potassium hydroxide | 13.1 mmol, 733 mg, 5 equiv | [OH-].[K+]
product | 2,2,8,8-Tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphocane | 499 mg, 41% yield | CC1(P(C(CCCCC1)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C32H49P
